US05627215
(E)-1-Allyl-14-propargyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.22 g (0.324 mmol) of (E)-1-allyl-14-propargyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 3.3 ml of 3N methanolic hydrochloric acid is reacted analogously to Example 8. The resulting title compound melts at >260° C. 1H-NMR (D2O): δ2.07-2.19(m,4H); 3.02(t,1H); 3.08-3.34(m,8H); 3.69(d,2H); 3.77(d,4H); 3.96(d,2H); 5.48-5.55(m,2H); 5.84-5.97(m,1H); 6.04-6.07(m,2H).

reactant | (E)-1-allyl-14-propargyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0.324 mmol, 0.22 g | C(C=C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CC#C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H62N4O8
reactant | hydrochloric acid | 3N, 3.3 ml | Cl | ClH
product | (E)-1-Allyl-14-propargyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C=C)NCCCNC\C=C\CNCCCNCC#C | InChI=1S/C16H30N4.4ClH/c1-3-9-17-13-7-15-19-11-5-6-12-20-16-8-14-18-10-4-2;;;;/h1,4-6,17-20H,2,7-16H2;4*1H/b6-5+;;;;
